US05080906
Saccharose 2,226 mg
NAC and THAM were first granulated separately in mixtures with gum arabic and dextrose. The granulates were dried and then mixed together with saccharin, saccharose and flavour and then distributed into the bags.

reactant | THAM | C(C(CO)(CO)N)O | C4H11NO3
reactant | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | Saccharose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
